US03992408
In the manner given in example 20, 7-chloro-5-(2,6-difluorophenyl)-2-[(3-phthalimidoacetonyl)amino]-3H-1,4-benzodiazepine, ethylene ketal is treated with concentrated sulfuric acid, then quenched to give after neutralization, 8-chloro-1-(phthalimidomethyl)-6-(2,6-difluorophenyl)-4H-imidazo[1,2-a][1,4]benzodiazepine.

reactant | 7-chloro-5-(2,6-difluorophenyl)-2-[(3-phthalimidoacetonyl)amino]-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NCC(=O)CN2C(C=3C(C2=O)=CC=CC3)=O)C3=C(C=CC=C3F)F)C1 | C26H17ClF2N4O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 8-chloro-1-(phthalimidomethyl)-6-(2,6-difluorophenyl)-4H-imidazo[1,2-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=CN3)CN3C(C=2C(C3=O)=CC=CC2)=O)C2=C(C=CC=C2F)F)C1 | C26H15ClF2N4O2
